US07732604B2
Trifluoroacetic acid (0.33 mL, 4.2 mmol) was added to a solution of tert-butyl 4-(4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamido)piperidine-1-carboxylate (72 mg, 0.13 mmol) in DCM (1.0 mL). After 96 hours, the reaction was concentrated by rotory evaporation. The residue was purified by prep-HPLC to give N-(piperidin-4-yl)-4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamide (7 mg, yield 25%).

reactant | Trifluoroacetic acid | 4.2 mmol, 0.33 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamido)piperidine-1-carboxylate | 0.13 mmol, 72 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC2=NC=C(N=C21)C2=CC=C(C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C=C2 | C31H32N8O3
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-(piperidin-4-yl)-4-(3-(quinolin-6-ylmethyl)-3H-[1,2,3]triazolo[4,5-b]pyrazin-5-yl)benzamide | 7 mg, yield 25% | N1CCC(CC1)NC(C1=CC=C(C=C1)C=1N=C2C(=NC1)N=NN2CC=2C=C1C=CC=NC1=CC2)=O | C26H24N8O
